US05998469
Synthesis of α-[2-(4-Methoxyphenylthio)-5-furyl]-N-tert-butylnitrone
2-(4-Methoxyphenylthio)-5-furaldehyde (24.50 g) was mixed with N-tert-butylhydroxylamine (15.0 g, 168.16 mmol), molecular sieves (100 g) and silica gel (20 g) in CHCl3 (500 mL). The mixture was refluxed overnight under argon gas, and then filtered and concentrated on a rotary evaporator. The residue was recrystallized from hexanes (435 mL) to afford the title compound as yellowish crystals (27.52 g, yield 78.8%), m.p. 91.7° C. (Rf =0.15 on a silica gel plate using hexanes/EtOAc, 2:1, v:v, as the eluant).

reactant | 2-(4-Methoxyphenylthio)-5-furaldehyde | 24.50 g | COC1=CC=C(C=C1)SC=1OC(=CC1)C=O | C12H10O3S
reactant | N-tert-butylhydroxylamine | 168.16 mmol, 15.0 g | C(C)(C)(C)NO | C4H11NO
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | α-[2-(4-Methoxyphenylthio)-5-furyl]-N-tert-butylnitrone | 27.52 g, yield 78.8% | COC1=CC=C(C=C1)SC=1OC(=CC1)C=[N+]([O-])C(C)(C)C | C16H19NO3S
